US08357716B2
1,1-Dimethylethyl {[3-(hydroxymethyl)phenyl]methyl}carbamate
3-(Hydroxymethyl)benzonitrile (1 g, 7.51 mmol), Nickel (II) Chloride (0.973 g, 7.51 mmol) and di-tert-butyl dicarbonate (3.28 g, 15.02 mmol) were dissolved in a solution of methanol (48 mL) and THF (32 mL) and cooled to 0° C. in an ice-bath. Sodium borohydride (1.989 g, 52.6 mmol) was added portionwise and the mixture was stirred for 3 h. LCMS showed the reaction had gone to completion so the reaction mixture was evaporated in vacuo to leave a black residue. The residue was partitioned between ethyl acetate (100 mL) and water (100 mL). The aqueous layer was washed a further two times with ethyl acetate (100 mL). The combined organic solutions were washed with brine (100 mL) and dried over anhydrous magnesium sulfate before being evaporated in vacuo. The residue was dissolved in dichloromethane, loaded onto a 100 g silica cartridge and purified by chromatography on Flashmaster II using a 0-100% ethyl acetate-cyclohexane gradient over 80 min. Appropriate fractions were combined and the solvent was evaporated to give the title compound (1.248 g, 70%) as a colourless oil.

reactant | 3-(Hydroxymethyl)benzonitrile | 7.51 mmol, 1 g | OCC=1C=C(C#N)C=CC1 | C8H7NO
reactant | di-tert-butyl dicarbonate | 15.02 mmol, 3.28 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Sodium borohydride | 52.6 mmol, 1.989 g | [BH4-].[Na+]
solvent | methanol | 48 mL | CO | CH4O
solvent | THF | 32 mL | C1CCOC1 | C4H8O
catalyst | Nickel (II) Chloride | 7.51 mmol, 0.973 g | [Ni](Cl)Cl
product | 1,1-Dimethylethyl {[3-(hydroxymethyl)phenyl]methyl}carbamate | 1.248 g, 70% | OCC=1C=C(C=CC1)CNC(OC(C)(C)C)=O | C13H19NO3
